US07666871B2
2-(4′-Ethanesulfonyl-biphenyl-4-yl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole
The title compound is prepared in a mamler substantially analogous to Example 35 starting from 4-Ethylsulfonylbenzene boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 425.1 (M+1)

reactant | 4-Ethylsulfonylbenzene boronic acid | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 2-(4′-Ethanesulfonyl-biphenyl-4-yl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | C(C)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C24H28N2O3S
